US05292760
A stirred solution of 5.00 g of 2-amino-N-methyl-α-(3-methyl-2-thienyl)benzeneethanamine and 235 ml of ethyl formate was refluxed for 8 hours. Volatile components were removed at 60° C. on a rotary evaporator. Thin layer chromatography (silica gel, ethyl acetate as the eluent) of the resultant oil indicated a multi-component mixture. HPLC of the mixture (Water's Associates Prep LC/System 500, silica gel, elution with ethyl acetate) permitted component separation. The faster eluting fractions were concentrated to an oil which crystallized upon standing. Recrystallization from methanol-water afforded 1.2 g of 2-amino-N-formyl-N-methyl-α-(3-methyl-2-thienyl)benzeneethanamine, mp 111°-112° C.

reactant | 2-amino-N-methyl-α-(3-methyl-2-thienyl)benzeneethanamine | 5.00 g | NC1=C(C=CC=C1)CC(NC)C=1SC=CC1C | C14H18N2S
reactant | ethyl formate | 235 ml | C(=O)OCC | C3H6O2
product | 2-amino-N-formyl-N-methyl-α-(3-methyl-2-thienyl)benzeneethanamine | 1.2 g | NC1=C(C=CC=C1)CC(N(C)C=O)C=1SC=CC1C | C15H18N2OS
